data/mechanism_extracts/GreenChem/10.1039_D5GC01259G_sup_1.json
{"doi": "10.1039_D5GC01259G_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical amidoselenation of alkenes (e.g., cyclohexene) with diphenyl diselenide and acetonitrile to give trans-1,2-selenyl-amido (acetamide) products via a seleniranium/Ritter-type cation pathway", "mechanism_family": ["radical_anodic", "cation_initiated", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of PhSeSePh (or PhSe•) generates an electrophilic PhSe+ species that adds to the alkene to form a seleniranium ion; acetonitrile then performs Ritter-type nucleophilic capture", "key_intermediates": [{"name": "phenylselenyl radical (PhSe•)", "smiles": "[Se]c1ccccc1", "role": "transient"}, {"name": "IM1: alkene–PhSe• adduct / pre-seleniranium complex", "smiles": null, "role": "transient"}, {"name": "1IM2: cationic seleniranium ion (singlet, after SET oxidation)", "smiles": null, "role": "reactive"}, {"name": "3IM2: triplet seleniranium-like species", "smiles": null, "role": "off_pathway"}, {"name": "IM3: nitrilium ion from MeCN attack on seleniranium", "smiles": null, "role": "reactive"}, {"name": "IM4: water-added nitrilium (hydration intermediate)", "smiles": null, "role": "transient"}, {"name": "IM5: trans-1,2-selenyl-amido adduct (pre-tautomer)", "smiles": null, "role": "transient"}, {"name": "3n: trans-N-(2-(phenylselanyl)cyclohexyl)acetamide product", "smiles": "CC(=O)NC1CCCCC1[Se]c1ccccc1", "role": "reactive"}, {"name": "IM6: allylbenzene–PhSe+ seleniranium (branching point for Markovnikov vs anti-Markovnikov)", "smiles": null, "role": "reactive"}, {"name": "IM7: anti-Markovnikov nitrilium adduct", "smiles": null, "role": "reactive"}, {"name": "IM8: Markovnikov nitrilium adduct", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes PhSeSePh to PhSe• / PhSe+; PhSe+ adds to the alkene forming a seleniranium cation (IM1 → 1IM2), which is opened by acetonitrile to give a nitrilium ion (IM3); water addition and tautomerization (via TS4/TS5) deliver the trans-β-selenyl acetamide product.", "rate_determining_step": "Structural transition IM1 → 1IM2 (formation of the cationic seleniranium via single-electron oxidation), as supported by ADCH charge analysis and DFT", "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield of 3n dropped from 92% to 55% (0.2 mmol) and 20% (0.4 mmol), indicating involvement of radical intermediates"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Reaction suppressed to trace yield, consistent with a radical (PhSe•) intermediate"}], "evidence_types_used": ["intermediate_trap_BHT", "intermediate_trap_other", "DFT"], "evidence_strength": "strong", "notes": "DFT (PBE0(D3BJ)/Def2SVP, SMD/MeCN) maps both singlet (1IM2) and triplet (3IM2) seleniranium pathways; singlet cationic pathway is favored. For allylbenzene, anti-Markovnikov TS6 (16.45 kcal/mol) is slightly higher than Markovnikov TS7 (15.95 kcal/mol), and IM7 (–6.45) is more stable than IM8 (–4.63), rationalizing regioselectivity. ADCH atomic charge analysis on IM1→1IM2 for cyclopentene/cyclohexene/cycloheptene explains substrate-dependent yields: cyclohexene's negative C2 charge (–0.1664) best enables SET oxidation to the seleniranium cation, while cyclopentene's positive C2 charge blocks the conversion."}
